* Y:\Schrempf\EDT_2\093_Transistor\AP_Stab_BasisRv\AP_Stab_BasisRv.asc
Rb Ub Ube 330k
Rc Ub Uce 470
V1 Ub 0 9V
Q1 Uce Ube 0 0 BC547B
.model NPN NPN
.model PNP PNP
.lib C:\ProgramData\App-V\48E4C2BF-4099-4555-881F-F2116170D516\F43ECB06-CC40-4AB2-BF9B-E3C6B823AE2E\Root\VFS\ProgramFilesX86\LTC\LTspiceIV\lib\cmp\standard.bjt
.op
.backanno
.end
